US07851626B2
[(4S,5R)-2-(4-tert-Butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-[4-(3-methanesulfonyl-propyl)-piperazin-1-yl]-methanone
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-2-(4-tert-butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 1-(3-methanesulfonyl-propyl)-piperazine dihydrochloride (prepared as described in Fotouhi, N. et al. WO 2005110996) to give the title compound as a racemic mixture. The enantiomers were separated by supercritical fluid chromatography (Berger Instrument Multi-Gram II, Daicel ChiralPak OD-H 3×25 cm, 35° C. at 100 bar, eluting with 25% isopropanol in carbon dioxide) gave the title compound. HR-MS (ES, m/z) calculated for C39H51N4O4SCl2 [(M+H)+] 741.3003, observed 741.2998.

reactant | rac-(4S*,5R*)-2-(4-tert-butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | C(C)(C)(C)C1=CC(=C(C=C1)C=1N(C(C(N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(=O)Cl)OC(C)C | C31H33Cl3N2O2
reactant | 1-(3-methanesulfonyl-propyl)-piperazine dihydrochloride | Cl.Cl.CS(=O)(=O)CCCN1CCNCC1
product | [(4S,5R)-2-(4-tert-Butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-[4-(3-methanesulfonyl-propyl)-piperazin-1-yl]-methanone | C(C)(C)(C)C1=CC(=C(C=C1)C=1N([C@]([C@](N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CCCS(=O)(=O)C)OC(C)C | C39H50Cl2N4O4S
